US04604243
Following the general procedure of Example I, 280 mmols of distilled methyl methacrylate were reacted with 25 mmols of 3,4-dimethoxyaniline in 30 mL of acetonitrile and in the presence of 42 mmols of concentrated HCl and 2.5 mmols of cuprous oxide. The process resulted in a 39.2% yield of methyl 2-chloro-2-methyl-3-(3,4-dimethoxyphenyl)propionate.

reactant | methyl methacrylate | 280 mmols | C(C(=C)C)(=O)OC | C5H8O2
reactant | 3,4-dimethoxyaniline | 25 mmols | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | HCl | 42 mmols | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | methyl 2-chloro-2-methyl-3-(3,4-dimethoxyphenyl)propionate | 39.2% yield | ClC(C(=O)OC)(CC1=CC(=C(C=C1)OC)OC)C | C13H17ClO4
